US04120904
In run 1 (control), 5 ml of 2.2 molar KOCF(CF3)2 in anhydrous DMF was added to a reaction vessel and diluted to 5.0 ml with anhydrous DMF. The reaction vessel consisted of a 50 ml round-bottom, three-neck flask which was equipped with a dropping funnel, an inlet tube with a safety trap, and an exit tube with a -80° C. cooled trap. Tetranitromethane (1.0 g, 5.10 mmoles) was placed in the dropping funnel and diluted with 10 ml of DMF. The system was flushed with nitrogen at 40 cc/min for 2 to 3 minutes. The C(NO2)4 -DMF solution was added to the KOCF(CF3)2 at ambient temperature. Fluorotrinitromethane yields and tetranitromethane conversions were obtained by gas-liquid chromatographic analyses of the reaction mixture as a function of reaction time.

reactant | KOCF(CF3)2 | 2.2 molar, 5 ml | O([K])C(F)(C(F)(F)F)C(F)(F)F
reactant | Tetranitromethane | 5.10 mmoles, 1.0 g | [N+](=O)([O-])C([N+](=O)[O-])([N+](=O)[O-])[N+](=O)[O-] | CN4O8
solvent | DMF | CN(C)C=O | C3H7NO
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | Fluorotrinitromethane | FC([N+](=O)[O-])([N+](=O)[O-])[N+](=O)[O-] | CFN3O6
